US08865726B2
To a solution of (S)-5-isopropyl-1-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one (0.23 g, 0.443 mmol) at 0° C. was added sodium hydride (0.0355 g, 0.887 mmol) and the reaction stirred 10 minutes. (2-Bromoethoxy)(tert-butyl)dimethylsilane (0.212 g, 0.887 mmol) was added and the reaction stirred for 2 hours while warming to ambient temperature. The reaction was poured onto water and extracted into EtOAc. The combined organic layers were washed with water, brine, dried over magnesium sulfate and concentrated in vacuo. The crude material was chromatographed using 20% EtOAc/dichloromethane as eluent to yield (S)-1-(2-(tert-butyldimethylsilyloxy)ethyl)-4-isopropyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one (0.18 g, 60%).

reactant | (S)-5-isopropyl-1-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one | 0.443 mmol, 0.23 g | C(C)(C)[C@H]1CNC(N1C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)=O | C26H34N8O2Si
reactant | sodium hydride | 0.887 mmol, 0.0355 g | [H-].[Na+]
reactant | (2-Bromoethoxy)(tert-butyl)dimethylsilane | 0.887 mmol, 0.212 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | (S)-1-(2-(tert-butyldimethylsilyloxy)ethyl)-4-isopropyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)imidazolidin-2-one | 0.18 g, 60% | [Si](C)(C)(C(C)(C)C)OCCN1C(N([C@H](C1)C(C)C)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C)=O | C34H52N8O3Si2
